US07612055B2
m) (R)-8,8-Dimethoxy-2,6-dimethyl-oct-2-ene
The following compounds can be obtained by a similar procedure, using 3-methoxy-benzylamine, 2-pyridin-4-yl-ethylamine, 2-(3,4-dimethoxy-phenyl)-ethylamine or 3-isopropyl-benzylamine instead of 3-methyl-benzylamine:

reactant | 3-methoxy-benzylamine | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | 2-pyridin-4-yl-ethylamine | N1=CC=C(C=C1)CCN | C7H10N2
reactant | 2-(3,4-dimethoxy-phenyl)-ethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 3-isopropyl-benzylamine | C(C)(C)C=1C=C(CN)C=CC1 | C10H15N
product | (R)-8,8-Dimethoxy-2,6-dimethyl-oct-2-ene | COC(C[C@@H](CCC=C(C)C)C)OC | C12H24O2
